US06211215B1
To a solution of ethyl 3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethylthio]phenyl]propionate (205 mg) in tetrahydrofuran (10 ml) was added lithium aluminum hydride at 0° C. and then stirred for one hour at room temperature. To the reaction mixture were added water and 1N-hydrochloric acid, and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4), and concentrated under reduced pressure to give crystals of 3-[4-[2-[(E)-2-phenyl ethenyl]-4-oxazolylmethylthio]phenyl]propanol (135 mg, 77%). Recrystallization from ethyl acetate-hexane gave colorless needles, mp 91-92° C.

reactant | ethyl 3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethylthio]phenyl]propionate | 205 mg | C1(=CC=CC=C1)/C=C/C=1OC=C(N1)CSC1=CC=C(C=C1)CCC(=O)OCC | C23H23NO3S
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-[4-[2-[(E)-2-phenyl ethenyl]-4-oxazolylmethylthio]phenyl]propanol | 135 mg, 77% | C1(=CC=CC=C1)/C=C/C=1OC=C(N1)CSC1=CC=C(C=C1)CCCO | C21H21NO2S
